US06417192B1
3-(1-Methylpyrazol-4-yl)acrylic acid (18.86 g) was added to a solution of sulphuric acid (15 ml) in methanol (150 ml), and the mixture refluxed for 2 hours, cooled, and poured onto ice. The acid was neutralised with solid sodium carbonate and the product extracted into dichloromethane, which was dried and evaporated. Crystallisation from ether/petrol gave methyl 3-(1-methylpyrazol-4-yl)acrylate (16.0 g). 1H-NMR (d6-DMSO) δ 3.77 (3H, s), 3.91 (3H, s), 6.16 (1H, d), 7.54 (1H, s), 7.56 (1H, d), 7.69 (1H, s). (APCI) M+H=167. C8H10N2O2 requires 166.

reactant | 3-(1-Methylpyrazol-4-yl)acrylic acid | 18.86 g | CN1N=CC(=C1)C=CC(=O)O | C7H8N2O2
reactant | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | methyl 3-(1-methylpyrazol-4-yl)acrylate | 16.0 g | CN1N=CC(=C1)C=CC(=O)OC | C8H10N2O2
